US06440995B1
2-(2-p-Tolyl-quinolin-4-ylamino)-ethanol hydrochloride
The title compound, m.p. 274-276° C. and MS: m/e=278 (Me), was prepared from 4-chloro-2-p-tolyl-quinoline and ethanolamine.

reactant | 4-chloro-2-p-tolyl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C | C16H12ClN
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-(2-p-Tolyl-quinolin-4-ylamino)-ethanol hydrochloride | Cl.C1(=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCCO)C | InChI=1S/C18H18N2O.ClH/c1-13-6-8-14(9-7-13)17-12-18(19-10-11-21)15-4-2-3-5-16(15)20-17;/h2-9,12,21H,10-11H2,1H3,(H,19,20);1H
